US06610685B2
g) [2-(6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester
75 mL of a pre-cooled (−78° C.) 1.6M solution of n-butyllithium in n-hexane at −78° C. was added over 30 min to a suspension of 32.72 g (0.100 mol) 6-ethoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene in 330 mL dry tetrahydrofuran. The mixture was stirred 5 min at −78° C. and 30.85 g (S)-4-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester was added in one portion. The mixture was stirred 20 min at −78° C. The reaction mixture was allowed to warm to −30° C. over 50 min. To the resulting slightly turbid mixture was added 300 mL of 10% citric acid. The phases were separated and the aqueous phase was extracted with 200 mL hexane. The combined organic phases were washed with 200 mL brine, dried over magnesium sulfate and evaporated. The residue was taken up in 200 mL dichloromethane and purified by chromatography on 1500 g silica gel (43-60 mesh) with dichloromethane (4000 mL) and 19:1 dichloromethane/ethyl acetate (6000 mL). The product fractions were evaporated and the residue was dissolved in 200 mL dichloromethane. The solution was diluted with 1000 mL hexane and the mixture was concentrated to a volume of 800 mL. The resulting suspension was stirred 18 h at room temperature. The mixture was cooled to 0° C. and stirred 30 min. The product was collected by filtration to yield 22.00 g of the title compound. The mother liquor was purified by chromatography, resulting in a further 4.71 g of the title compound. Total yield: 26.71 g (74.5%). m.p.: 89-90° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-ethoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 0.100 mol, 32.72 g | C(C)OC1=CC=2C(=C3N(C2C=C1)CCC3)I | C13H14INO
reactant | (S)-4-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 30.85 g | C(C)(C)(C)OC(=O)N1S(OC[C@@H]1C)(=O)=O | C8H15NO5S
reactant | citric acid | 300 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 330 mL | O1CCCC1 | C4H8O
product | [2-(6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-8-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 22.00 g | C(C)(C)(C)OC(NC(CC1=C2N(C=3C=CC(=CC13)OCC)CCC2)C)=O | C21H30N2O3
